### PR TITLE
[Merged by Bors] - feat(MeasureTheory/Integral): the Riesz-Markov-Kakutani theorem for `NNReal`-linear functionals

### PR DESCRIPTION
**Pull request by yoh-tanimoto**
prove the Riesz-Markov-Kakutani theorem for `NNReal`-linear functional, by reducing the statement to the `Real`-version, but for `lintegral` instead of `integral`.

The bulk of the PR is the definitions and lemmas to go back and forth between `Real` and `NNReal` linear functionals.

Motivation: this is the version first aimed at, perhaps for applications in probability.

### CODE REVIEW

File: Mathlib/Topology/ContinuousMap/CompactlySupported.lean [hunk 1]
```diff
@@ -647,38 +648,145 @@ continuous `ℝ≥0`-valued function. -/
...
 
 @[simp]
 lemma nnrealPart_apply (f : C_c(α, ℝ)) (x : α) :
     f.nnrealPart x = Real.toNNReal (f x) := rfl
 
+lemma nnrealPart_neg_eq_zero_of_nonneg (f : C_c(α, ℝ)) (hf : 0 ≤ f) : (-f).nnrealPart = 0 := by
+  ext x
+  simp only [nnrealPart_apply, coe_neg, Pi.neg_apply, Real.coe_toNNReal', coe_zero, Pi.zero_apply,
+    NNReal.coe_zero, sup_eq_right, Left.neg_nonpos_iff]
+  exact hf x
```
Comment (oliver-butterley) [inline Mathlib/Topology/ContinuousMap/CompactlySupported.lean:661]:
```suggestion
  simpa using hf x
```

File: Mathlib/Topology/ContinuousMap/CompactlySupported.lean [hunk 2]
```diff
@@ -647,38 +648,145 @@ continuous `ℝ≥0`-valued function. -/
...
+      sup_of_le_left (neg_nonneg.mpr (le_of_lt hfx))]
+    · ring
+    exact mul_nonneg_of_nonpos_of_nonpos (le_of_lt ha) (le_of_lt hfx)
+
+lemma add_nnrealPart_le_nnrealPart_add (f g : C_c(α, ℝ)) :
+    (f + g).nnrealPart ≤ f.nnrealPart + g.nnrealPart := by
+  intro x
+  simp only [ContinuousMap.toFun_eq_coe, coe_toContinuousMap, nnrealPart_apply, coe_add,
+    Pi.add_apply, ContinuousMap.add_apply]
+  exact Real.toNNReal_add_le
```
Comment (oliver-butterley) [inline Mathlib/Topology/ContinuousMap/CompactlySupported.lean:702]:
```suggestion
  simpa using Real.toNNReal_add_le
```

File: Mathlib/Topology/ContinuousMap/CompactlySupported.lean [hunk 3]
```diff
@@ -699,13 +815,70 @@ noncomputable def toNNRealLinear (Λ : C_c(α, ℝ) →ₗ[ℝ] ℝ) (hΛ : ∀
...
+
+lemma toRealLinear_apply {Λ : C_c(α, ℝ≥0) →ₗ[ℝ≥0] ℝ≥0} (f : C_c(α, ℝ)) :
+    (toRealLinear Λ) f = Λ (nnrealPart f) - Λ (nnrealPart (-f)) := rfl
+
+lemma nonneg_toRealLinear (Λ : C_c(α, ℝ≥0) →ₗ[ℝ≥0] ℝ≥0) (g : C_c(α, ℝ)) (hg : 0 ≤ g) :
+    0 ≤ toRealLinear Λ g := by
+  rw [toRealLinear_apply]
+  simp only [sub_nonneg, coe_le_coe]
+  rw [nnrealPart_neg_eq_zero_of_nonneg g hg]
+  simp
```
Comment (oliver-butterley) [inline Mathlib/Topology/ContinuousMap/CompactlySupported.lean:866]:
```suggestion
simp [toRealLinear_apply, nnrealPart_neg_eq_zero_of_nonneg g hg]
```

File: Mathlib/Topology/ContinuousMap/CompactlySupported.lean [hunk 4]
```diff
@@ -699,13 +815,70 @@ noncomputable def toNNRealLinear (Λ : C_c(α, ℝ) →ₗ[ℝ] ℝ) (hΛ : ∀
...
+
+@[simp]
+lemma eq_toRealLinear_toReal {Λ : C_c(α, ℝ≥0) →ₗ[ℝ≥0] ℝ≥0} (f : C_c(α, ℝ≥0)) :
+    (toRealLinear Λ) (toReal f) = Λ f:= by
+  rw [toRealLinear_apply]
+  simp
```
Comment (oliver-butterley) [inline Mathlib/Topology/ContinuousMap/CompactlySupported.lean:872]:
```suggestion
  simp [toRealLinear_apply]
```

**Review by oliver-butterley — COMMENTED** [review]
:tada:

File: Mathlib/MeasureTheory/Integral/RieszMarkovKakutani/NNReal.lean [hunk 5]
```diff
@@ -0,0 +1,50 @@
...
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Yoh Tanimoto
+-/
+
+import Mathlib.MeasureTheory.Integral.RieszMarkovKakutani.Real
+
+/-!
+#  Riesz–Markov–Kakutani representation theorem for `NNReal`
+
+This file will prove the Riesz-Markov-Kakutani representation theorem on a locally compact
```
[the remark this answers is not in the document]
Comment (yoh-tanimoto) [reply Mathlib/MeasureTheory/Integral/RieszMarkovKakutani/NNReal.lean:12]: yes, I changed the phrase to say that the file `Basic.lean` only contains preparatory definitions and results.

File: Mathlib/MeasureTheory/Integral/RieszMarkovKakutani/Basic.lean [hunk 6]
```diff
@@ -10,9 +10,10 @@ import Mathlib.Topology.PartitionOfUnity
 /-!
 #  Riesz–Markov–Kakutani representation theorem
 
-This file will prove the Riesz-Markov-Kakutani representation theorem on a locally compact
-T2 space `X`. As a special case, the statements about linear functionals on bounded continuous
-functions follows.
+This file prepares technical definitions and results for the Riesz-Markov-Kakutani representation
+theorem on a locally compact T2 space `X`. As a special case, the statements about linear
+functionals on bounded continuous functions follows. Actual theorems, depending on the
+linearity (`ℝ`, `ℝ≥0` or `ℂ`) are prove in separate files (`Real.lean`, `NNReal.lean`...)
```
Comment (oliver-butterley) [inline Mathlib/MeasureTheory/Integral/RieszMarkovKakutani/Basic.lean:16]:
```suggestion
linearity (`ℝ`, `ℝ≥0` or `ℂ`), are proven in separate files (`Real.lean`, `NNReal.lean`...)
```

File: Mathlib/Topology/ContinuousMap/CompactlySupported.lean [hunk 7]
```diff
@@ -699,13 +811,66 @@ noncomputable def toNNRealLinear (Λ : C_c(α, ℝ) →ₗ[ℝ] ℝ) (hΛ : ∀
...
+      rw [sup_of_le_left (le_of_lt ha), mul_sub]
+    · intro ha
+      rw [← ha]
+      simp
+    · intro ha
+      simp only [RingHom.id_apply, smul_eq_mul]
+      rw [← (smul_neg a f), nnrealPart_smul_neg f a ha, nnrealPart_smul_neg (-f) a ha]
+      simp only [map_smul, smul_eq_mul, NNReal.coe_mul, Real.coe_toNNReal', neg_neg]
+      rw [sup_of_le_left (neg_nonneg.mpr (le_of_lt ha))]
+      ring
```
Comment (oliver-butterley) [inline Mathlib/Topology/ContinuousMap/CompactlySupported.lean:852]:
```suggestion
    apply Or.elim3 (lt_trichotomy 0 a)
    · intro ha
      rw [RingHom.id_apply, smul_eq_mul, ← (smul_neg a f), nnrealPart_smul_pos f a ha, 
        nnrealPart_smul_pos (-f) a ha]
      simp [sup_of_le_left (le_of_lt ha), mul_sub]
    · intro ha
      simp [← ha]
    · intro ha
      simp only [RingHom.id_apply, smul_eq_mul, ← (smul_neg a f), nnrealPart_smul_neg f a ha, 
        nnrealPart_smul_neg (-f) a ha, map_smul, NNReal.coe_mul, Real.coe_toNNReal', neg_neg, 
        sup_of_le_left (neg_nonneg.mpr (le_of_lt ha))]
      ring
```

Comment (oliver-butterley) [reply Mathlib/Topology/ContinuousMap/CompactlySupported.lean:852]: Nothing huge, I saw a few `rw` and `simp only` that would naturally combine

File: Mathlib/MeasureTheory/Integral/RieszMarkovKakutani/NNReal.lean [hunk 8]
```diff
@@ -0,0 +1,54 @@
...
+to `Λ f`. -/
+theorem lintegral_rieszMeasure (f : C_c(X, ℝ≥0)) : ∫⁻ (x : X), f x ∂(rieszMeasure Λ) = Λ f := by
+  rw [lintegral_coe_eq_integral, ← ENNReal.ofNNReal_toNNReal]
+  · simp only [ENNReal.coe_inj]
+    rw [Real.toNNReal_of_nonneg (by apply integral_nonneg; intro x; simp),
+      ← NNReal.coe_inj, ← eq_toRealLinear_toReal Λ f,
+      ← RealRMK.integral_rieszMeasure (nonneg_toRealLinear Λ) f.toReal]
+    · simp only [toReal_apply, NNReal.coe_mk]
+      congr
+      exact Eq.symm (eq_toNNRealLinear_toRealLinear Λ)
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/RieszMarkovKakutani/NNReal.lean:49]:
```suggestion
    simp only [toReal_apply, NNReal.coe_mk]
    congr
    exact Eq.symm (eq_toNNRealLinear_toRealLinear Λ)
```
There is just one goal here, so no need to add a bullet and indent.

File: Mathlib/Topology/ContinuousMap/CompactlySupported.lean [hunk 9]
```diff
@@ -634,10 +634,11 @@ protected lemma exists_add_of_le {f₁ f₂ : C_c(α, ℝ≥0)} (h : f₁ ≤ f
   · apply (f₁.hasCompactSupport'.union f₂.hasCompactSupport').of_isClosed_subset isClosed_closure
     rw [tsupport, tsupport, ← closure_union]
     apply closure_mono
-    intro x hx
```
Comment (sgouezel) [inline Mathlib/Topology/ContinuousMap/CompactlySupported.lean:637]: Why did you change the proof here? The original one looks better to me.

File: Mathlib/Topology/ContinuousMap/CompactlySupported.lean [hunk 10]
```diff
@@ -647,38 +648,141 @@ continuous `ℝ≥0`-valued function. -/
...
 
 @[simp]
 lemma nnrealPart_apply (f : C_c(α, ℝ)) (x : α) :
     f.nnrealPart x = Real.toNNReal (f x) := rfl
 
+lemma nnrealPart_neg_eq_zero_of_nonneg (f : C_c(α, ℝ)) (hf : 0 ≤ f) : (-f).nnrealPart = 0 := by
+  ext x
+  simpa using hf x
+
+lemma nnrealPart_smul_pos (f : C_c(α, ℝ)) (a : ℝ) (ha : 0 < a):
```
Comment (sgouezel) [inline Mathlib/Topology/ContinuousMap/CompactlySupported.lean:661]:
```suggestion
lemma nnrealPart_smul_pos (f : C_c(α, ℝ)) {a : ℝ} (ha : 0 < a) :
```
Wouldn't it be enough for the lemma if `a` where nonnegative?

File: Mathlib/Topology/ContinuousMap/CompactlySupported.lean [hunk 11]
```diff
@@ -647,38 +648,141 @@ continuous `ℝ≥0`-valued function. -/
...
+    · rw [sup_of_le_left (le_of_lt ha)]
+    · exact mul_nonneg (le_of_lt ha) hfx
+  · push_neg at hfx
+    rw [sup_of_le_right, sup_of_le_right (le_of_lt hfx)]
+    · simp only [mul_zero]
+    apply mul_nonpos_iff.mpr
+    left
+    exact ⟨(le_of_lt ha), le_of_lt hfx⟩
+
+lemma nnrealPart_smul_neg (f : C_c(α, ℝ)) (a : ℝ) (ha : a < 0):
```
Comment (sgouezel) [inline Mathlib/Topology/ContinuousMap/CompactlySupported.lean:677]: ditto

File: Mathlib/Topology/ContinuousMap/CompactlySupported.lean (hunk 9 above)
Comment (yoh-tanimoto) [reply Mathlib/Topology/ContinuousMap/CompactlySupported.lean:637]: I just thought it would be better to `simp` first. I will revert it

File: Mathlib/Topology/ContinuousMap/CompactlySupported.lean (hunk 10 above)
Comment (yoh-tanimoto) [reply Mathlib/Topology/ContinuousMap/CompactlySupported.lean]: right, thanks for the suggestion! I will weaken the assumption

File: Mathlib/Topology/ContinuousMap/CompactlySupported.lean (hunk 11 above)
Comment (yoh-tanimoto) [reply Mathlib/Topology/ContinuousMap/CompactlySupported.lean]: done

File: Mathlib/Topology/ContinuousMap/CompactlySupported.lean [hunk 12]
```diff
@@ -699,13 +811,63 @@ noncomputable def toNNRealLinear (Λ : C_c(α, ℝ) →ₗ[ℝ] ℝ) (hΛ : ∀
...
+    · intro ha
+      simp only [RingHom.id_apply, smul_eq_mul, ← (smul_neg a f), nnrealPart_smul_neg f a ha,
+        nnrealPart_smul_neg (-f) a ha, map_smul, NNReal.coe_mul, Real.coe_toNNReal', neg_neg,
+        sup_of_le_left (neg_nonneg.mpr (le_of_lt ha))]
+      ring
+
+lemma toRealLinear_apply {Λ : C_c(α, ℝ≥0) →ₗ[ℝ≥0] ℝ≥0} (f : C_c(α, ℝ)) :
+    (toRealLinear Λ) f = Λ (nnrealPart f) - Λ (nnrealPart (-f)) := rfl
+
+lemma nonneg_toRealLinear (Λ : C_c(α, ℝ≥0) →ₗ[ℝ≥0] ℝ≥0) (g : C_c(α, ℝ)) (hg : 0 ≤ g) :
```
Comment (oliver-butterley) [inline Mathlib/Topology/ContinuousMap/CompactlySupported.lean:853]:
```suggestion
lemma nonneg_toRealLinear (Λ : C_c(α, ℝ≥0) →ₗ[ℝ≥0] ℝ≥0) {g : C_c(α, ℝ)} (hg : 0 ≤ g) :
```

File: Mathlib/MeasureTheory/Integral/RieszMarkovKakutani/NNReal.lean [hunk 13]
```diff
@@ -0,0 +1,54 @@
...
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Yoh Tanimoto
+-/
+
+import Mathlib.MeasureTheory.Integral.RieszMarkovKakutani.Real
+
+/-!
+#  Riesz–Markov–Kakutani representation theorem for `NNReal`
+
+This file will prove the Riesz-Markov-Kakutani representation theorem on a locally compact
```
Comment (oliver-butterley) [inline Mathlib/MeasureTheory/Integral/RieszMarkovKakutani/NNReal.lean]:
```suggestion
This file proves Riesz-Markov-Kakutani representation theorem on a locally compact
```

File: Mathlib/Topology/ContinuousMap/CompactlySupported.lean [hunk 14]
```diff
@@ -647,38 +648,141 @@ continuous `ℝ≥0`-valued function. -/
...
   continuous_toFun := Continuous.comp continuous_real_toNNReal f.continuous
-  hasCompactSupport' := by
-    apply HasCompactSupport.comp_left f.hasCompactSupport' Real.toNNReal_zero
+  hasCompactSupport' := HasCompactSupport.comp_left f.hasCompactSupport' Real.toNNReal_zero
 
 @[simp]
 lemma nnrealPart_apply (f : C_c(α, ℝ)) (x : α) :
     f.nnrealPart x = Real.toNNReal (f x) := rfl
 
+lemma nnrealPart_neg_eq_zero_of_nonneg (f : C_c(α, ℝ)) (hf : 0 ≤ f) : (-f).nnrealPart = 0 := by
```
Comment (oliver-butterley) [inline Mathlib/Topology/ContinuousMap/CompactlySupported.lean:656]:
```suggestion
lemma nnrealPart_neg_eq_zero_of_nonneg {f : C_c(α, ℝ)} (hf : 0 ≤ f) : (-f).nnrealPart = 0 := by
```
similar to a few other suggestions of mine, it seems convenient to make a variable implicit whenever there is another variable present which determines it like `hf` does here.

File: Mathlib/Topology/ContinuousMap/CompactlySupported.lean (hunk 10 above)
Comment (oliver-butterley) [inline Mathlib/Topology/ContinuousMap/CompactlySupported.lean]:
```suggestion
lemma nnrealPart_smul_pos (f : C_c(α, ℝ)) {a : ℝ} (ha : 0 < a):
```

File: Mathlib/Topology/ContinuousMap/CompactlySupported.lean (hunk 11 above)
Comment (oliver-butterley) [inline Mathlib/Topology/ContinuousMap/CompactlySupported.lean]:
```suggestion
lemma nnrealPart_smul_neg (f : C_c(α, ℝ)) {a : ℝ} (ha : a < 0):
```

File: Mathlib/Topology/ContinuousMap/CompactlySupported.lean (hunk 14 above)
Comment (yoh-tanimoto) [reply Mathlib/Topology/ContinuousMap/CompactlySupported.lean]: I general I agree that such variables can be implicit, but in this case I had to write `@nonneg_toRealLinear _ _ Λ` where it is applied because `toNNRealLinear` takes `(hΛ : ∀ f, 0 ≤ f → 0 ≤ Λ f)`. is this ok?

File: Mathlib/MeasureTheory/Integral/RieszMarkovKakutani/NNReal.lean [hunk 15]
```diff
@@ -0,0 +1,54 @@
+/-
+Copyright (c) 2025 Yoh Tanimioto. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Yoh Tanimoto
+-/
+
+import Mathlib.MeasureTheory.Integral.RieszMarkovKakutani.Real
+
+/-!
+#  Riesz–Markov–Kakutani representation theorem for `NNReal`
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/RieszMarkovKakutani/NNReal.lean]:
```suggestion
#  Riesz–Markov–Kakutani representation theorem for `ℝ≥0`
```

File: Mathlib/MeasureTheory/Integral/RieszMarkovKakutani/NNReal.lean [hunk 16]
```diff
@@ -0,0 +1,54 @@
...
+
+This file proves the Riesz-Markov-Kakutani representation theorem on a locally compact
+T2 space `X` for `NNReal`-linear functionals `Λ`.
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/RieszMarkovKakutani/NNReal.lean]:
```suggestion
T2 space `X` for `ℝ≥0`-linear functionals `Λ`.
```

File: Mathlib/MeasureTheory/Integral/RieszMarkovKakutani/NNReal.lean [hunk 17]
```diff
@@ -0,0 +1,54 @@
...
+
+## Implementation notes
+
+The proof depends on the version of the theorem for `Real`-linear functional Λ because in a standard
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/RieszMarkovKakutani/NNReal.lean]:
```suggestion
The proof depends on the version of the theorem for `ℝ`-linear functional Λ because in a standard
```

File: Mathlib/MeasureTheory/Integral/RieszMarkovKakutani/NNReal.lean [hunk 18]
```diff
@@ -0,0 +1,54 @@
...
+variable {X : Type*} [TopologicalSpace X] [T2Space X] [LocallyCompactSpace X] [MeasurableSpace X]
+  [BorelSpace X]
+variable (Λ : C_c(X, ℝ≥0) →ₗ[ℝ≥0] ℝ≥0)
+
+namespace NNRealRMK
+
+/-- The **Riesz-Markov-Kakutani representation theorem**: given a positive linear functional `Λ`,
+the (lower) Lebesgue integral of `f` with respect to the `rieszMeasure` associated to `Λ` is equal
+to `Λ f`. -/
+theorem lintegral_rieszMeasure (f : C_c(X, ℝ≥0)) : ∫⁻ (x : X), f x ∂(rieszMeasure Λ) = Λ f := by
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/RieszMarkovKakutani/NNReal.lean:51]: Can you also give the result for the Bochner integral?

File: Mathlib/Topology/ContinuousMap/CompactlySupported.lean [hunk 19]
```diff
@@ -647,38 +647,141 @@ continuous `ℝ≥0`-valued function. -/
...
+  by_cases hfx : 0 ≤ f x
+  · rw [sup_of_le_left _, sup_of_le_left hfx]
+    · rw [sup_of_le_left ha]
+    · exact mul_nonneg ha hfx
+  · push_neg at hfx
+    rw [sup_of_le_right, sup_of_le_right (le_of_lt hfx)]
+    · simp only [mul_zero]
+    apply mul_nonpos_iff.mpr
+    left
+    exact ⟨ha, le_of_lt hfx⟩
```
Comment (sgouezel) [inline Mathlib/Topology/ContinuousMap/CompactlySupported.lean]:
```suggestion
  simp only [nnrealPart_apply, coe_smul, Pi.smul_apply, Real.coe_toNNReal', smul_eq_mul,
    NNReal.coe_mul, ha, sup_of_le_left]
  rcases le_total 0 (f x) with hfx | hfx
  · rw [sup_of_le_left (by positivity), sup_of_le_left hfx]
  · rw [sup_of_le_right (by simp [mul_nonpos_iff, ha, hfx]), sup_of_le_right hfx]
    simp only [mul_zero]
```
You can shorten your proof by using more `simp`: it will do the job for you, instead of tedious manual manipulations.

Can you try to shorten similarly the following proofs, using the same kind of idea?

File: Mathlib/MeasureTheory/Integral/RieszMarkovKakutani/NNReal.lean (hunk 18 above)
Comment (yoh-tanimoto) [reply Mathlib/MeasureTheory/Integral/RieszMarkovKakutani/NNReal.lean:51]: Do you mean by "the result for the Bochner integral" something like the following? `ℝ≥0` is not an `NormedAddCommGroup`...
```
theorem integral_rieszMeasure (f : C_c(X, ℝ≥0)) : ∫⁻ (x : X), (f x : ℝ) ∂(rieszMeasure Λ) = Λ f
```

Comment (sgouezel) [reply Mathlib/MeasureTheory/Integral/RieszMarkovKakutani/NNReal.lean:51]: Yes, but with  ∫ instead of ∫⁻

Comment (yoh-tanimoto) [reply Mathlib/MeasureTheory/Integral/RieszMarkovKakutani/NNReal.lean:51]: oh sure, sorry.

Comment (yoh-tanimoto) [reply Mathlib/MeasureTheory/Integral/RieszMarkovKakutani/NNReal.lean:51]: done

File: Mathlib/Topology/ContinuousMap/CompactlySupported.lean (hunk 19 above)
Comment (yoh-tanimoto) [reply Mathlib/Topology/ContinuousMap/CompactlySupported.lean]: thanks for the suggestions. there are some remaining `rw`, and I'm not sure if I can use `simp` because it first changes `-(f x + g x)` to `(- f x) + (- g x)` when the sign of the former should be used

File: Mathlib/MeasureTheory/Integral/RieszMarkovKakutani/NNReal.lean [hunk 20]
```diff
@@ -0,0 +1,60 @@
...
+  rw [lintegral_coe_eq_integral, ← ENNReal.ofNNReal_toNNReal]
+  · rw [ENNReal.coe_inj, Real.toNNReal_of_nonneg (MeasureTheory.integral_nonneg (by intro a; simp)),
+       NNReal.eq_iff, NNReal.coe_mk]
+    exact integral_rieszMeasure Λ f
+  rw [rieszMeasure]
+  exact Continuous.integrable_of_hasCompactSupport (by continuity)
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/RieszMarkovKakutani/NNReal.lean]:
```suggestion
  exact Continuous.integrable_of_hasCompactSupport (by fun_prop)
```
`fun_prop` is better than continuity.

File: Mathlib/Topology/ContinuousMap/CompactlySupported.lean [hunk 21]
```diff
@@ -699,13 +776,63 @@ noncomputable def toNNRealLinear (Λ : C_c(α, ℝ) →ₗ[ℝ] ℝ) (hΛ : ∀
...
+      rw [RingHom.id_apply, smul_eq_mul, ← (smul_neg a f), nnrealPart_smul_pos f (le_of_lt ha),
+        nnrealPart_smul_pos (-f) (le_of_lt ha)]
+      simp [sup_of_le_left (le_of_lt ha), mul_sub]
+    · intro ha
+      simp [← ha]
+    · intro ha
+      simp only [RingHom.id_apply, smul_eq_mul, ← (smul_neg a f),
+        nnrealPart_smul_neg f (le_of_lt ha), nnrealPart_smul_neg (-f) (le_of_lt ha), map_smul,
+        NNReal.coe_mul, Real.coe_toNNReal', neg_neg, sup_of_le_left (neg_nonneg.mpr (le_of_lt ha))]
+      ring
```
Comment (sgouezel) [inline Mathlib/Topology/ContinuousMap/CompactlySupported.lean]:
```suggestion
    rcases le_total 0 a with ha | ha
    · rw [RingHom.id_apply, smul_eq_mul, ← (smul_neg a f), nnrealPart_smul_pos f ha,
        nnrealPart_smul_pos (-f) ha]
      simp [sup_of_le_left ha, mul_sub]
    · simp only [RingHom.id_apply, smul_eq_mul, ← (smul_neg a f),
        nnrealPart_smul_neg f ha, nnrealPart_smul_neg (-f) ha, map_smul,
        NNReal.coe_mul, Real.coe_toNNReal', neg_neg, sup_of_le_left (neg_nonneg.mpr ha)]
      ring
```
Your proof never uses strict inequalities, only large ones, so better split in two cases than three.

File: Mathlib/Topology/ContinuousMap/CompactlySupported.lean [hunk 22]
```diff
@@ -699,13 +776,63 @@ noncomputable def toNNRealLinear (Λ : C_c(α, ℝ) →ₗ[ℝ] ℝ) (hΛ : ∀
...
+
+lemma toRealLinear_apply {Λ : C_c(α, ℝ≥0) →ₗ[ℝ≥0] ℝ≥0} (f : C_c(α, ℝ)) :
+    (toRealLinear Λ) f = Λ (nnrealPart f) - Λ (nnrealPart (-f)) := rfl
```
Comment (sgouezel) [inline Mathlib/Topology/ContinuousMap/CompactlySupported.lean]:
```suggestion
    toRealLinear Λ f = Λ (nnrealPart f) - Λ (nnrealPart (-f)) := rfl
```

File: Mathlib/Topology/ContinuousMap/CompactlySupported.lean [hunk 23]
```diff
@@ -699,13 +776,63 @@ noncomputable def toNNRealLinear (Λ : C_c(α, ℝ) →ₗ[ℝ] ℝ) (hΛ : ∀
...
+
+lemma nonneg_toRealLinear (Λ : C_c(α, ℝ≥0) →ₗ[ℝ≥0] ℝ≥0) {g : C_c(α, ℝ)} (hg : 0 ≤ g) :
+    0 ≤ toRealLinear Λ g := by
+  simp [toRealLinear_apply, nnrealPart_neg_eq_zero_of_nonneg hg]
+
+@[simp]
+lemma eq_toRealLinear_toReal (Λ : C_c(α, ℝ≥0) →ₗ[ℝ≥0] ℝ≥0) (f : C_c(α, ℝ≥0)) :
+    (toRealLinear Λ) (toReal f) = Λ f:= by
```
Comment (sgouezel) [inline Mathlib/Topology/ContinuousMap/CompactlySupported.lean]:
```suggestion
    toRealLinear Λ (toReal f) = Λ f:= by
```

File: Mathlib/Topology/ContinuousMap/CompactlySupported.lean [hunk 24]
```diff
@@ -699,13 +776,63 @@ noncomputable def toNNRealLinear (Λ : C_c(α, ℝ) →ₗ[ℝ] ℝ) (hΛ : ∀
...
+    · intro ha
+      simp only [RingHom.id_apply, smul_eq_mul, ← (smul_neg a f),
+        nnrealPart_smul_neg f (le_of_lt ha), nnrealPart_smul_neg (-f) (le_of_lt ha), map_smul,
+        NNReal.coe_mul, Real.coe_toNNReal', neg_neg, sup_of_le_left (neg_nonneg.mpr (le_of_lt ha))]
+      ring
+
+lemma toRealLinear_apply {Λ : C_c(α, ℝ≥0) →ₗ[ℝ≥0] ℝ≥0} (f : C_c(α, ℝ)) :
+    (toRealLinear Λ) f = Λ (nnrealPart f) - Λ (nnrealPart (-f)) := rfl
+
+lemma nonneg_toRealLinear (Λ : C_c(α, ℝ≥0) →ₗ[ℝ≥0] ℝ≥0) {g : C_c(α, ℝ)} (hg : 0 ≤ g) :
```
Comment (sgouezel) [inline Mathlib/Topology/ContinuousMap/CompactlySupported.lean]:
```suggestion
lemma toRealLinear_nonneg (Λ : C_c(α, ℝ≥0) →ₗ[ℝ≥0] ℝ≥0) (g : C_c(α, ℝ)) (hg : 0 ≤ g) :
```
I'm changing the lemma name (because `nonneg` goes after what it qualifies), and the implicitness of `g` so that you can use it below without `@`.

File: Mathlib/Topology/ContinuousMap/CompactlySupported.lean [hunk 25]
```diff
@@ -699,13 +776,63 @@ noncomputable def toNNRealLinear (Λ : C_c(α, ℝ) →ₗ[ℝ] ℝ) (hΛ : ∀
...
+  simp [toRealLinear_apply, nnrealPart_neg_eq_zero_of_nonneg hg]
+
+@[simp]
+lemma eq_toRealLinear_toReal (Λ : C_c(α, ℝ≥0) →ₗ[ℝ≥0] ℝ≥0) (f : C_c(α, ℝ≥0)) :
+    (toRealLinear Λ) (toReal f) = Λ f:= by
+  simp [toRealLinear_apply]
+
+@[simp]
+lemma eq_toNNRealLinear_toRealLinear (Λ : C_c(α, ℝ≥0) →ₗ[ℝ≥0] ℝ≥0) :
+    (toNNRealLinear (toRealLinear Λ) (@nonneg_toRealLinear _ _ Λ)) = Λ := by
```
Comment (sgouezel) [inline Mathlib/Topology/ContinuousMap/CompactlySupported.lean]:
```suggestion
    toNNRealLinear (toRealLinear Λ) (toRealLinear_nonneg Λ) = Λ := by
```

**Review by sgouezel — COMMENTED** [review]
bors d+
Thanks a lot for this!

**Comment by yoh-tanimoto** [comment]
Thank you very much for your review and suggestions!

bors r+
